US06677352B1
To a solution of 2-anilino-5-chloro-7-methyl-1-phenyl-1,6-naphthyridin-4(1H)-one (80 mg, 0.22 mmol) in EtOH (8 mL) was added glycine ethyl ester hydrochloride (46 mg, 0.44 mmol) and TEA (0.23 mL, 1.65 mmol). The reaction was heated at reflux for 3 d. The reaction mixture was cooled, concentrated in vacuo, diluted with water and extracted with EtOAc. The combined organic extracts were washed with water, brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by reverse-phase preparative HPLC (10% CH3CN in water with 0.1% TFA to 95% CH3CN in water, 10 mL/min, 10 min) to provide ethyl N-(2-anilino-7-methyl-4-oxo-1-phenyl-1,4-dihydro-1,6-naphthyridin-5-yl)glycinate (43 mg, 46%): LCMS RT: 2.16 min, MH+: 429.3.

reactant | 2-anilino-5-chloro-7-methyl-1-phenyl-1,6-naphthyridin-4(1H)-one | 0.22 mmol, 80 mg | N(C1=CC=CC=C1)C=1N(C2=CC(=NC(=C2C(C1)=O)Cl)C)C1=CC=CC=C1 | C21H16ClN3O
reactant | glycine ethyl ester hydrochloride | 0.44 mmol, 46 mg | Cl.C(C)OC(CN)=O
solvent | EtOH | 8 mL | CCO | C2H6O
product | ethyl N-(2-anilino-7-methyl-4-oxo-1-phenyl-1,4-dihydro-1,6-naphthyridin-5-yl)glycinate | 43 mg, 46% | N(C1=CC=CC=C1)C=1N(C2=CC(=NC(=C2C(C1)=O)NCC(=O)OCC)C)C1=CC=CC=C1 | C25H24N4O3
